US06147216
Step d: 2-[4-(4-Chloro-butyryl)-phenyl]-2-methyl-propionic Acid, Ethyl Ester
Add anhydrous hydrogen chloride gas (18.0 g) to anhydrous ethanol DB (210 g) by purging the solution. Add this hot solution (60° C.) to a solution of 2-[4-(4-chloro-butyryl)-phenyl]-2-methyl-propionic acid (31 g, 115.6 mmol) and reflux under a nitrogen atmosphere for 2.5 hours. Evaporate the solvent in vacuo, dissolve the residue in methylene chloride (150 mL) and wash with water (2×100 mL). Dry (MgSO4), filter through silica gel, washing the gel with methylene chloride (250 mL). Combine the organic washings and evaporate the solvent in vacuo to give the title compound as a colorless oil (33.3 g, 97%).

reactant | hydrogen chloride | 18.0 g | Cl | ClH
reactant | 2-[4-(4-chloro-butyryl)-phenyl]-2-methyl-propionic acid | 115.6 mmol, 31 g | ClCCCC(=O)C1=CC=C(C=C1)C(C(=O)O)(C)C | C14H17ClO3
reactant | ethanol | C(C)O | C2H6O
product | 2-[4-(4-Chloro-butyryl)-phenyl]-2-methyl-propionic Acid, Ethyl Ester | 33.3 g, 97% | ClCCCC(=O)C1=CC=C(C=C1)C(C(=O)OCC)(C)C | C16H21ClO3
